US07799924B2
1-Isopropyl-4-[5-(2-cyclopentylethyl)[1,2,4]oxadiazol-3-yl]piperidine, hydrochloride
The title compound was prepared by a similar procedure to that described in Example 56, starting from 1-isopropyl-N-hydroxypiperidine-4-carboxamidine and 3-(cyclopentyl)propanoyl chloride.

reactant | 1-isopropyl-N-hydroxypiperidine-4-carboxamidine | C(C)(C)N1CCC(CC1)C(=N)NO | C9H19N3O
reactant | 3-(cyclopentyl)propanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
product | 1-Isopropyl-4-[5-(2-cyclopentylethyl)[1,2,4]oxadiazol-3-yl]piperidine, hydrochloride | Cl.C(C)(C)N1CCC(CC1)C1=NOC(=N1)CCC1CCCC1 | InChI=1S/C17H29N3O.ClH/c1-13(2)20-11-9-15(10-12-20)17-18-16(21-19-17)8-7-14-5-3-4-6-14;/h13-15H,3-12H2,1-2H3;1H
